US07645789B2
A mixture of 5-chloromethyl-6-fluoro-benzo[1,3]dioxole (640 mg, 3.4 mmol) and NaCN (340 mg, 6.8 mmol) in DMSO (20 mL) was stirred at 30° C. for 1 h and then poured into water. The mixture was extracted with EtOAc (50 mL×3). The combined organic layers were washed with water (50 mL) and brine (50 mL), dried over Na2SO4, and evaporated under reduced pressure to give the crude product, which was purified by column chromatography on silica gel (5-10% ethyl acetate/petroleum ether) to afford (6-fluoro-benzo[1,3]dioxol-5-yl)-acetonitrile (530 mg, 70%). 1H-NMR (300 MHz, CDCl3) δ 6.82 (d, J=4.8, 1H), 6.62 (d, J=5.4, 1H), 5.99 (s, 2H), 3.65 (s, 2H).

reactant | 5-chloromethyl-6-fluoro-benzo[1,3]dioxole | 3.4 mmol, 640 mg | ClCC1=CC2=C(OCO2)C=C1F | C8H6ClFO2
reactant | NaCN | 6.8 mmol, 340 mg | [C-]#N.[Na+]
reactant | water | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (6-fluoro-benzo[1,3]dioxol-5-yl)-acetonitrile | 530 mg, 70% | FC=1C(=CC2=C(OCO2)C1)CC#N | C9H6FNO2
